US09102614B2
Preparation of ethyl 2-(4-methoxybenzyloxy)-2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)acetate:
A solution of ethyl 2-(4-methoxybenzyloxy)-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate (102 mg, 0.268 mmol) in CHCl3 (5.0 mL) was treated with solid NaHCO3 (46 mg, 0.281 mmol). Br2 (45 mg) in CHCl3 (1.0 mL) was added dropwise over 5 min at 23° C. After 15 min, 10% Na2S2O3 (10 mL) was added. The reaction was extracted two times with CHCl3. Combined organic phases were dried (Na2SO4), filtered, and concentrated. The residue was dissolved in DCM. The solution was wet-loaded onto a 12 g “gold” ISCO silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product (83 mg, 67%). 1H NMR (400 MHz, CDCl3) δ 8.69 (s, 1H), 8.29 (d, J=8.2 Hz, 1H), 8.22 (d, J=8.6 Hz, 1H), 7.59 (dd, J=7.4, 7.4 Hz, 1H), 7.47 (dd, J=7.8, 7.8 Hz, 1H), 7.26 (d, J=8.2 Hz, 2H), 6.91 (d, J=8.6 Hz, 2H), 5.47 (s, 1H), 4.67-4.56 (m, 2H), 4.26-4.08 (m, 2H), 3.81 (s, 3H), 2.60 (s, 3H), 1.20 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-(4-methoxybenzyloxy)-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate | 0.268 mmol, 102 mg | COC1=CC=C(COC(C(=O)OCC)C2=C(C3=CC=CC=C3C=C2C)O)C=C1 | C23H24O5
reactant | NaHCO3 | 0.281 mmol, 46 mg | C(=O)(O)[O-].[Na+]
reactant | Br2 | 45 mg | BrBr | Br2
reactant | Na2S2O3 | 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CHCl3 | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(4-methoxybenzyloxy)-2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)acetate | 83 mg, 67% | COC1=CC=C(COC(C(=O)OCC)C2=C(C3=CC=CC=C3C(=C2C)Br)O)C=C1 | C23H23BrO5
